### PR TITLE
[Merged by Bors] - feat: port Order.CompactlyGenerated

### PR DESCRIPTION
**Pull request by mcdoll**
Missing tactics:
- [ ] Tfae
- [ ] change .. with

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/CompactlyGenerated.lean [hunk 1]
```diff
@@ -0,0 +1,620 @@
...
+      · rw [Finset.coe_insert, Set.insert_subset]
+        exact ⟨ha, Set.Subset.trans ht (Set.diff_subset _ _)⟩⟩
+#align complete_lattice.set_independent_iff_finite CompleteLattice.setIndependent_iff_finite
+
+theorem CompleteLattice.setIndependent_unionᵢ_of_directed {η : Type _} {s : η → Set α}
+    (hs : Directed (· ⊆ ·) s) (h : ∀ i, CompleteLattice.SetIndependent (s i)) :
+    CompleteLattice.SetIndependent (⋃ i, s i) := by
+  by_cases hη : Nonempty η
+  · skip
+    rw [CompleteLattice.setIndependent_iff_finite]
```
Comment (Ruben-VandeVelde) [inline Mathlib/Order/CompactlyGenerated.lean:445]:
```suggestion
  · rw [CompleteLattice.setIndependent_iff_finite]
```

**Review by Ruben-VandeVelde — APPROVED** [review]

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge
